US05135932
6-[1-[2-[3-(4-(2-Cyclopropylmethoxy-ethyl)phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2cyclopropylmethoxyethyl)phenoxy]-2,3-epoxypropane and 6-[1-(2-aminoethyl)benzimidazol-5-yl]-3(2H)-pyridazinone.

reactant | 1-[4-(2cyclopropylmethoxyethyl)phenoxy]-2,3-epoxypropane | C1(CC1)COCCC1=CC=C(OCC2CO2)C=C1 | C15H20O3
reactant | 6-[1-(2-aminoethyl)benzimidazol-5-yl]-3(2H)-pyridazinone | NCCN1C=NC2=C1C=CC(=C2)C=2C=CC(NN2)=O | C13H13N5O
product | 6-[1-[2-[3-(4-(2-Cyclopropylmethoxy-ethyl)phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-3(2H)-pyridazinone | C1(CC1)COCCC1=CC=C(OCC(CNCCN2C=NC3=C2C=CC(=C3)C=3C=CC(NN3)=O)O)C=C1 | C28H33N5O4
